US04863482
Preparation of 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-(β-aminoethyl)aminonitrobenzene
0.13 mole (36.5 g) of 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-chloronitrobenzene, whose synthesis was described in stage 1 of example 2, was heated for 2 hours at 130° C. in 150 ml of ethylenediamine, then the reaction medium diluted with 450 ml of ice water to precipitate out the desired product. After filtering and water washing to neutrality, the product obtained was dried under vacuum in the presence of P2O5. It was recrystallized from 96° ethanol and melted at 220° C.

reactant | 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-chloronitrobenzene | 0.13 mole, 36.5 g | OCCNC1=C(C(=CC(=C1)Cl)NCCO)[N+](=O)[O-] | C10H14ClN3O4
solvent | ethylenediamine | 150 ml | C(CN)N | C2H8N2
product | 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-(β-aminoethyl)aminonitrobenzene | OCCNC1=C(C(=CC(=C1)NCCN)NCCO)[N+](=O)[O-] | C12H21N5O4
